US05492925
Preparation of 4-Bromo-2-chloro-5-(5-chloro-2-thienyl)pyrrole-3-carbonitrile
A solution of bromine (0.70 g, 4.3 mmol) in p-dioxane is added dropwise to a solution of 2-chloro-5-(5-chloro-2-thienyl)pyrrole-3-carbonitrile (1.0 g, 4.1 mmol) in p-dioxane. The reaction mixture is stirred overnight at room temperature and concentrated in vacuo to obtain a residue. Flash chromatography of the residue using silica gel and a (6:1) hexane/ethyl acetate solution gives the title product as a yellow solid, mp >200° C.

reactant | bromine | 4.3 mmol, 0.70 g | BrBr | Br2
reactant | 2-chloro-5-(5-chloro-2-thienyl)pyrrole-3-carbonitrile | 4.1 mmol, 1.0 g | ClC=1NC(=CC1C#N)C=1SC(=CC1)Cl | C9H4Cl2N2S
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | p-dioxane | O1CCOCC1 | C4H8O2
product | 4-Bromo-2-chloro-5-(5-chloro-2-thienyl)pyrrole-3-carbonitrile | BrC=1C(=C(NC1C=1SC(=CC1)Cl)Cl)C#N | C9H3BrCl2N2S
